US04851127
4-N-acryloyl-diethylenetriamine was prepared by slowly adding, at 23° C., 200 ml of a solution of acryloyl chloride in a mixture of hexane and dichloromethane (C6H14 :C2Cl2 =3:1) at a concentration of 3.6 wt% (0.4 mEq/ml) to 600 ml of 1.4 wt% (0.4 mEq/ml) diethylenetriamine which had been purified by vacuum distillation. The reaction product was oligomerized by the addition of 200 ml of a 4.1 wt% solution of isophthaloyl chloride in dichloromethane at 20° C. with mechanical stirring. An asymmetric microporous polysulfone support flat sheet membrane 4 mils thick was immersed in a 2 wt% aqueous solution of 4-N-acryloyl-diethylenetriamine oligomer, drained of excess solution, then immersed in a 0.5 wt% solution of trimesoyl chloride at 20° C. for 30 seconds. The composite membrane was then air-dried at room temperature for 30 minutes and subjected to heat treatment at 105° C. for 10 minutes.

reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | diethylenetriamine | NCCNCCN | C4H13N3
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-N-acryloyl-diethylenetriamine | C(C=C)(=O)N(CCN)CCN | C7H15N3O
